US04935430
5-(4-Cyanophenyl)-4-methyloxazole
A stirred, two-phase mixture of formamide (0.6 ml, 15 mmol) and 4-(1-bromo-2-oxopropyl)benzonitrile (0.8 g, 3.4 mmol) was heated to 120° for 2 hours. After cooling, dichloromethane (15 ml) and saturated aqueous sodium bicarbonate (10 ml) were added, the organic phase was separated, dried (magnesium sulphate) and the solvent removed under reduced pressure to yield 0.4 g of an amorphous yellow solid. The product was purified by silica gel chromatography, eluting with dichloromethane to yield the title compound (0.29 g, 47%) as a pale yellow solid, m.p. 120°-121° C.

reactant | formamide | 15 mmol, 0.6 ml | C(=O)N | CH3NO
reactant | 4-(1-bromo-2-oxopropyl)benzonitrile | 3.4 mmol, 0.8 g | BrC(C(C)=O)C1=CC=C(C#N)C=C1 | C10H8BrNO
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-(4-Cyanophenyl)-4-methyloxazole | 0.4 g | C(#N)C1=CC=C(C=C1)C1=C(N=CO1)C | C11H8N2O
